US08236964B2
A.5.2 Synthesis of 2,2,2-trifluoro-N-thiazolidin-4-ylmethyl-acetamide (trifluoroacetic acid salt)
To a cold (0° C.) solution of 4-[(2,2,2-trifluoro-acetylamino)-methyl]-thiazolidine-3-carboxylic acid tert-butyl ester (19 mmol) in dry DCM (10 mL) was added dropwise TFA (133 mmol, 7 eq). The reaction mixture was stirred for 20 h and concentrated in vacuo to give the title compound. LC-MS: tR=0.24 min; [m+H]+=214.99.

reactant | 4-[(2,2,2-trifluoro-acetylamino)-methyl]-thiazolidine-3-carboxylic acid tert-butyl ester | 19 mmol | C(C)(C)(C)OC(=O)N1CSCC1CNC(C(F)(F)F)=O | C11H17F3N2O3S
reactant | TFA | 133 mmol, 7 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-thiazolidin-4-ylmethyl-acetamide | FC(C(=O)NCC1NCSC1)(F)F | C6H9F3N2OS
